US08445487B2
4-(2-Chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)morpholine (4.05 gm) was reacted with 2-aminopyrimidine-5-boronic acid, pinacol ester via General Procedure A to give 4.75 g of 5-(6-morpholino-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-2-yl)pyrimidin-2-amine which was refluxed in the presence of a catalytic amount of dimethylaminopyridine, 4 eq Boc-anhydride and 3 eq triethylamine in 60 mL of acetonitrile. Upon completion, the reaction was cooled, concentrated to dryness and purified via normal phase chromatography to yield 6.11 g of 2-(2-(2-(bis(tert-butoxycarbonyl)amino)pyrimidin-5-yl)-6-morpholino-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-2-yl as a light yellow solid.

reactant | 4-(2-Chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)morpholine | 4.05 gm | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N1CCOCC1 | C14H18ClN5O2
reactant | 2-aminopyrimidine-5-boronic acid | NC1=NC=C(C=N1)B(O)O | C4H6BN3O2
product | 5-(6-morpholino-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-2-yl)pyrimidin-2-amine | 4.75 g | O1CCN(CC1)C1=C2N=CN(C2=NC(=N1)C=1C=NC(=NC1)N)C1OCCCC1 | C18H22N8O2
